US05929078
1.2. 2-(5-Methoxy-1H-inden-3-yl)ethyl 4-methylbenzenesulphonate
1.27 g (0.0067 mol) of 5-methoxy-1H-indene-3-ethanol are dissolved in 11 ml of dry pyridine, the mixture is stirred, is cooled with an ice bath, 1.4 g (0.0073 mol) of 4-methylbenzenesulphonic acid chloride are added portionwise and stirring is maintained overnight while cold and then at room temperature for 4 h. The solution is poured onto a mixture of 16 ml of 10N hydrochloric acid and 48 g of ice, the mixture obtained is treated with diethyl ether, the organic phase is separated, is washed with water, in dried over magnesium sulphate and is filtered and the filtrate is evaporated under reduced pressure. 1.94 g of a colourless oily product are obtained, which product is used as is in the following stage.

reactant | 5-methoxy-1H-indene-3-ethanol | 0.0067 mol, 1.27 g | COC=1C=C2C(=CCC2=CC1)CCO | C12H14O2
reactant | 4-methylbenzenesulphonic acid chloride | 0.0073 mol, 1.4 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | hydrochloric acid | 10N, 16 ml | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | pyridine | 11 ml | N1=CC=CC=C1 | C5H5N
product | 2-(5-Methoxy-1H-inden-3-yl)ethyl 4-methylbenzenesulphonate | 1.94 g | CC1=CC=C(C=C1)S(=O)(=O)OCCC1=CCC2=CC=C(C=C12)OC | C19H20O4S
